US08466181B2
6-{4-[3-(4-Fluoro-phenyl)-5-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-N-(tetrahydropyran-4-yl)-nicotinamide
As described for example 36b, 6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid (56 mg, 0.154 mmol) was converted, using 4-aminotetrahydropyran instead of isopropylamine, to the title compound (52 mg, 76%) which was obtained as an off white solid. MS: m/e=448.3 [M+H]+.

reactant | 6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 0.154 mmol, 56 mg | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13FN6O2
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-{4-[3-(4-Fluoro-phenyl)-5-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-N-(tetrahydropyran-4-yl)-nicotinamide | 52 mg, 76% | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)NC2CCOCC2)C=C1)C | C23H22FN7O2
